US08404709B2
4-(3-Acetyl-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)-3-methoxybenzonitrile
18 g (74 mmol) of 4-(2-acetyl-3-oxobut-1-en-1-yl)-3-methoxybenzonitrile and 8.14 g (74 mmol) of 4-aminopyridin-2(1H)-one [Searls, T., McLaughlin, L. W., Tetrahedron 55, 11985-11996 (1999)] are dissolved in 40 ml of isopropanol and heated under reflux under argon for 4 days. The mixture is then concentrated and the residue is recrystallized from methanol. 18.1 g (70% of theory) of the title compound are obtained as a pale yellow solid.

reactant | 4-(2-acetyl-3-oxobut-1-en-1-yl)-3-methoxybenzonitrile | 74 mmol, 18 g | C(C)(=O)C(=CC1=C(C=C(C#N)C=C1)OC)C(C)=O | C14H13NO3
reactant | 4-aminopyridin-2(1H)-one | 74 mmol, 8.14 g | NC1=CC(NC=C1)=O | C5H6N2O
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
product | 4-(3-Acetyl-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)-3-methoxybenzonitrile | C(C)(=O)C1=C(NC=2C=CNC(C2C1C1=C(C=C(C#N)C=C1)OC)=O)C | C19H17N3O3
